US08022062B2
Dissolve 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (415 mg, 1.08 mmol) in methanol (20 mL) and add potassium hydroxide (1.938 g, 34.53 mmol). Heat at 60° C. for 4 h. Cool the reaction mixture to ambient temperature, add aqueous saturated ammonium chloride and concentrate in vacuo. Partition the residue between EtOAc and water. Dry the organic phase over anhydrous Na2SO4 and concentrate in vacuo to give 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.34 g, 1.086 mmol). Dissolve the crude 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.34 g, 1.086 mmol) in anhydrous DMF (10 mL), add sodium hydride (65 mg, 1.63 mmol, 60% in mineral oil) and stir the mixture for 5 min. Add a solution of (±)-1-(4-fluorophenyl)ethyl bromide (332 mg, 1.63 mmol) in anhydrous DMF (5 mL) and heat the solution at 45° C. overnight. Cool to ambient temperature, add water and extract the aqueous phase twice with EtOAc. Dry the combined organic extracts over anhydrous Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (19:1 and 9:1) to give (±)-3-tert-butoxycarbonyl-7-chloro-6-[1-(4-fluorophenyl)ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as oil (397 mg, 84%). MS (ES+) m/z: 336 (M+H−Boc)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.086 mmol, 0.34 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)S | C15H20ClNO2S
reactant | sodium hydride | 1.63 mmol, 65 mg | [H-].[Na+]
reactant | (±)-1-(4-fluorophenyl)ethyl bromide | 1.63 mmol, 332 mg | FC1=CC=C(C=C1)C(C)Br | C8H8BrF
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (±)-3-tert-butoxycarbonyl-7-chloro-6-[1-(4-fluorophenyl)ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 397 mg, 84% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(C)C2=CC=C(C=C2)F | C23H27ClFNO2S
